US04517187
To a stirred solution of cis-1,2,3,4-tetrahydro-1-methylaminomethyl-4-phenylisoquinoline dihydrochloride (30.6 g, 0.094 m) in chloroform (500 ml) maintained under nitrogen at ambient temperature was added triethylamine (42.6 g, 0.42 m) and then in one portion diethyloxalate (30.1 g, 0.206 m) and the mixture heated to reflux for 4 hours. The mixture was cooled and washed with 10% HCl (3×150 ml) and water (150 ml), then dried over MgSO4. The solvent was evaporated to give 22.3 g of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline-3,4-dione as a pale yellow solid. An analytical sample, recrystallized from isopropanol, had m.p. 193°-194°.

reactant | cis-1,2,3,4-tetrahydro-1-methylaminomethyl-4-phenylisoquinoline dihydrochloride | 30.6 g | Cl.Cl.CNC[C@@H]1NC[C@@H](C2=CC=CC=C12)C1=CC=CC=C1
reactant | triethylamine | 42.6 g | C(C)N(CC)CC | C6H15N
reactant | diethyloxalate | 30.1 g | C(C)OC(C(=O)OCC)=O | C6H10O4
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline-3,4-dione | 22.3 g | CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)C(C1=O)=O | C19H18N2O2
